US06713474B2
To a mixture of 4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-cyclohexanone (2 g, 5 mmol) in tetrahydrofuran (17.5 mL) were added trimethyl-sulfonium iodide (1.53 g, 7.5 mmol) in dimethyl sulfoxide (25 mL) and potassium-t-butoxide (7.5 mL, 7.5 mmol, 1 M in tetrahydrofuran) under an atmosphere of nitrogen at −5° C. The mixture was stirred at −5° C. for 1 hour. The mixture was poured into ice water (50 mL). The water phase was extracted with ethyl acetate (3×30 mL). The combined organic extracts were washed with saturated ammonium chloride solution (2×30 mL), water (1×30 mL), and brine (2×30 mL) and dried over sodium sulfate. The solvent was removed under reduced pressure to yield 7-(1-oxaspiro[2.5]oct-6-yl)-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (1.9 g, 4.6 mmol, 2:1-mixture of trans and cis). The mixture was suspended in dichloromethane (3 mL). The solid was filtered and was washed with dichloromethane (1 mL) to yield 7-(1-oxaspiro[2.5]oct-6-yl)-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.994 g, 2.4 mmol, 4:1-mixture of trans and cis).

reactant | 4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-cyclohexanone | 5 mmol, 2 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCC(CC2)=O | C24H22N4O2
reactant | trimethyl-sulfonium iodide | 7.5 mmol, 1.53 g | [I-].C[S+](C)C
reactant | potassium-t-butoxide | 7.5 mmol, 1 M, 7.5 mL | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 17.5 mL | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
product | 7-(1-oxaspiro[2.5]oct-6-yl)-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 4.6 mmol, 1.9 g | O1CC12CCC(CC2)N2C=C(C1=C2N=CN=C1N)C1=CC=C(C=C1)OC1=CC=CC=C1 | C25H24N4O2
